US05231182
3-[[3-[Acetyl[2-[4-(tetradecyloxy)phenyl]ethyl]amino]phenyl]methyl]-5-methyl-thiazolium bromide
A mixture of 2.5 g of N-[3-(bromoethyl)phenyl-N-[2-[4-(tetradecyloxy)phenyl]ethyl]acetamide and 2.28 g of 5-methylthiazole in 50 ml of toluene is refluxed for 5 hours, cooled and ether added. The solid is collected by centrifugation and washed several times with ether then vacuum dried to give 1.8 g of the desired product as a white solid, m.p. 136°-140° C.

reactant | 3-(bromoethyl)phenyl-N-[2-[4-(tetradecyloxy)phenyl]ethyl]acetamide | BrCCC=1C=C(C=CC1)CC(=O)NCCC1=CC=C(C=C1)OCCCCCCCCCCCCCC | C32H48BrNO2
reactant | 5-methylthiazole | 2.28 g | CC1=CN=CS1 | C4H5NS
reactant | ether | CCOCC | C4H10O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[[3-[Acetyl[2-[4-(tetradecyloxy)phenyl]ethyl]amino]phenyl]methyl]-5-methyl-thiazolium bromide | 1.8 g | [Br-].C(C)(=O)N(C=1C=C(C=CC1)C[N+]1=CSC(=C1)C)CCC1=CC=C(C=C1)OCCCCCCCCCCCCCC | InChI=1S/C35H51N2O2S.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-25-39-35-21-19-32(20-22-35)23-24-37(31(3)38)34-18-16-17-33(26-34)28-36-27-30(2)40-29-36;/h16-22,26-27,29H,4-15,23-25,28H2,1-3H3;1H/q+1;/p-1
